US08084448B2
C. 2-(4-Aminobutoxy)-6-benzyloxybenzoic Acid Methyl Ester
A solution of 2-benzyloxy-6-(4-tert-butoxycarbonylaminobutoxy)-benzoic acid methyl ester (1.6 g, 3.7 mmol) in 30 mL of methylene chloride/TFA (2:1) is stirred at RT for 20 min. The solvent is removed under reduced pressure and the residue is re-dissolved in methylene chloride, washed with sat. NaHCO31 water and brine, and dried over sodium sulfate. The solvent is removed under reduced pressure to afford the title compound as a colorless liquid: (M+1)+=330.

reactant | 2-benzyloxy-6-(4-tert-butoxycarbonylaminobutoxy)-benzoic acid methyl ester | 3.7 mmol, 1.6 g | COC(C1=C(C=CC=C1OCCCCNC(=O)OC(C)(C)C)OCC1=CC=CC=C1)=O | C24H31NO6
solvent | methylene chloride TFA | 30 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 2-(4-Aminobutoxy)-6-benzyloxybenzoic Acid Methyl Ester | COC(C1=C(C=CC=C1OCC1=CC=CC=C1)OCCCCN)=O | C19H23NO4
